US07371743B2
3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-4-([1,2]oxazinan-2-yl)-benzamide
209 mg (0.50 mmol) 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-4-(3,6-dihydro-[1,2]oxazin-2-yl)-benzamide together with 100 mg 10% palladium charcoal in 5 ml of ethyl acetate for 7 minutes are hydrogenated at ambient temperature at 5 bar under a hydrogen atmosphere. Then the mixture is suction filtered, the filtrate is evaporated down i. vac. and evaporated again with ether.

reactant | 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-4-(3,6-dihydro-[1,2]oxazin-2-yl)-benzamide | 0.50 mmol, 209 mg | ClC=1C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1N1OCC=CC1 | C20H18Cl2N4O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium charcoal | 100 mg | [Pd] | Pd
product | 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-4-([1,2]oxazinan-2-yl)-benzamide | ClC=1C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1N1OCCCC1 | C20H20Cl2N4O2
